US06743792B2
Acetic acid, ammonium salt (3 g) was added at RT to a solution of (±)-2-chloro-α-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)-α-methylbenzeneacetyl chloride (0.007 mol) in 2-propanone (30 ml). The mixture was stirred at RT for 5 hours. Acetic acid, ammonium salt was filtered off and the solvent was evaporated. The residue was taken up in CH2Cl2, washed with water, dried, filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH 97/3). The pure fractions were collected and the solvent was evaporated, yielding 1.6 g (57%) of (±)-2-chloro-a-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)-α-methylbenzeneacetamide (comp. 1.18).

reactant | Acetic acid, ammonium salt | 3 g | [NH4+].C(C)(=O)[O-]
reactant | (±)-2-chloro-α-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)-α-methylbenzeneacetyl chloride | 0.007 mol | ClC1=C(C=CC(=C1)N1N=CC(NC1=O)=O)C(C(=O)Cl)(C)C1=CC=C(C=C1)Cl | C18H12Cl3N3O3
solvent | 2-propanone | 30 ml | CC(C)=O | C3H6O
product | (±)-2-chloro-a-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)-α-methylbenzeneacetamide | 1.6 g, 57% | ClC1=C(C=CC(=C1)N1N=CC(NC1=O)=O)C(C(=O)N)(C)C1=CC=C(C=C1)Cl | C18H14Cl2N4O3
